US04587050
Cool a solution of 17 g 2-methylcycloheptanone in 75 ml concentrated hydrochloric acid and add protionwise 13.2 g sodium azide. Stir the reaction of 0° for 1 hour then at room temperature for 2 hours. Add the reaction to 150 ml ice water, bring to pH 7 with potassium carbonate and extract with chloroform. Treat the extracts with charcoal, dry over MgSO4, filter and concentrate to obtain crude 8-methylperhydroazocin-2-one. Obtain a pure product by recrystallization from hexane (m.p. 70-73).

reactant | 2-methylcycloheptanone | 17 g | CC1C(CCCCC1)=O | C8H14O
reactant | sodium azide | 13.2 g | [N-]=[N+]=[N-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 75 ml | Cl | ClH
product | 8-methylperhydroazocin-2-one | CC1CCCCCC(N1)=O | C8H15NO
